US06211220B1
3-[3-(4-Pyridyl)Anilino]-3-Cyclobutene-1,2-Dione
A solution of 4-(3-aminophenyl)pyridine (0.81 g) and 3-n-butoxy-3-cyclobutene-1,2-dione (0.73 g) in ethanol (20 ml) is stirred at ambient temperature for 15 hours. The resultant precipitated solid is washed with methanol and ether and recrystallized from dimethyl formamide to give 0.91 g of the title compound, mp 252-255.5° C.

reactant | 4-(3-aminophenyl)pyridine | 0.81 g | NC=1C=C(C=CC1)C1=CC=NC=C1 | C11H10N2
reactant | 3-n-butoxy-3-cyclobutene-1,2-dione | 0.73 g | C(CCC)OC=1C(C(C1)=O)=O | C8H10O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-[3-(4-Pyridyl)Anilino]-3-Cyclobutene-1,2-Dione | 0.91 g | N1=CC=C(C=C1)C=1C=C(NC=2C(C(C2)=O)=O)C=CC1 | C15H10N2O2
